US07855298B2
(1S,5R)-1-[2-Fluoro-4-(trifluoromethyl)phenyl]-3-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-3-azabicyclo[3.1.0]hexane hydrochloride
The free base of the title compound was prepared in analogy to the method described in Example 1 from (1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane. A mixture of (1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (Preparation 39, 727 mg, 2.97 mmol), 3-[(3-Chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole (Preparation 14, 3.6 mmol.), K2CO3 (3.6 mmol.) and NaI (2.97 mmol) in DMF anhydrous was heated at 60° C. for 24 h. After elimination of the solvent under vacuo, the residue was dissolved in ethyl acetate and the organic layer was washed with saturated aqueous NaHCO3 and dried over Na2SO4. This solution was filtered and the filtrate was concentrated in vacuo. The crude was purified by flash chromatography (dichloromethane to 10% MeOH in dichloromethane) to give 940 mg of the free base of the title compound.

reactant | (1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | FC1=C(C=CC(=C1)C(F)(F)F)[C@]12CNC[C@@H]2C1 | C12H11F4N
reactant | (1S,5R)-1-[2-fluoro-4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 2.97 mmol, 727 mg | FC1=C(C=CC(=C1)C(F)(F)F)[C@]12CNC[C@@H]2C1 | C12H11F4N
reactant | 3-[(3-Chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole | 3.6 mmol | ClCCCSC1=NN=C(N1C)C1=C(N=CO1)C | C10H13ClN4OS
reactant | K2CO3 | 3.6 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 2.97 mmol | [Na+].[I-]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S,5R)-1-[2-Fluoro-4-(trifluoromethyl)phenyl]-3-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.FC1=C(C=CC(=C1)C(F)(F)F)[C@]12CN(C[C@@H]2C1)CCCSC1=NN=C(N1C)C1=C(N=CO1)C | InChI=1S/C22H23F4N5OS.ClH/c1-13-18(32-12-27-13)19-28-29-20(30(19)2)33-7-3-6-31-10-15-9-21(15,11-31)16-5-4-14(8-17(16)23)22(24,25)26;/h4-5,8,12,15H,3,6-7,9-11H2,1-2H3;1H/t15-,21-;/m0./s1
